US08809552B2
b) 1-(4-Chloro-benzenesulfonyl)-1,6-diaza-spiro[3.3]heptane-6-carboxylic acid (3-phenyl-propyl)-amide
In analogy to the experimental procedure of example 6b) 6-(3-phenyl-propylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester instead of tert-butyl 1-(2,4-dichlorobenzylcarbamoyl)-1,6-diazaspiro[3.3]heptane-6-carboxylate was converted using 4-chlorobenzene-1-sulfonyl chloride into the title compound which was obtained as a colorless sticky solid (25 mg, 17%). MS m/e: 434 (M+H)+.

reactant | 6-(3-phenyl-propylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CN(C2)C(NCCCC2=CC=CC=C2)=O | C20H29N3O3
reactant | 4-chlorobenzene-1-sulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 1-(4-Chloro-benzenesulfonyl)-1,6-diaza-spiro[3.3]heptane-6-carboxylic acid (3-phenyl-propyl)-amide | C1(=CC=CC=C1)CCCNC(=O)N1CC2(CCN2S(=O)(=O)C2=CC=C(C=C2)Cl)C1 | C21H24ClN3O3S
